US04224344
A solution of β-(9,10-dihydro-9,10-methano-9-anthryl)propionic acid and thionyl chloride in benzene was refluxed for 4 hours. Evaporation of excess thionyl chloride and benzene gave β-(9,10-dihydro-9,10-methano-9-anthryl)-propionic acid chloride, which was dissolved in dry tetrahydrofuran. The solution was added to a 30% aqueous monomethylamine solution at 0°-5° C. The reaction mixture was stirred at 0°-15° C., diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness to give β-(9,10-dihydro-9,10-methano-9-anthryl)-propionic acid monomethylamide. M.P. 200°-201° C.

reactant | β-(9,10-dihydro-9,10-methano-9-anthryl)propionic acid | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CCC(=O)O | C18H16O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | β-(9,10-dihydro-9,10-methano-9-anthryl)-propionic acid chloride | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CCC(=O)Cl | C18H15ClO
